US08012998B2
c) 2-{(S)-1-[(3R,4S)-1-Benzyl-4-(4-chloro-3-fluoro-phenyl)-pyrrolidin-3yl]-ethoxy}-5-chloro-pyridine (XI-B-9)
To a suspension of PPh3 (PPh3 polymer bound, 3 mmol PPh3/g resin) (216 mg, 0.65 mmol) in THF (10 mL) at 0° C. were added 5-chloro-pyridin-2-ol (58 mg, 0.45 mmol) and then DBAD (110 mg, 0.48 mmol). After 5 minutes was added (R)-1-[(3R,4S)-1-benzyl-4-(4-chloro-3-fluoro-phenyl)-pyrrolidin-3-yl]-ethanol (100 mg, 0.30 mmol). The reaction mixture was stirred over night at RT, filtered on celite and concentrated under vacuo. Extraction with EtOAc/aq.NaOH 1M, followed by column chromatography (SiO2, EtOAc/H, 1:3) yielded 100 mg (75%) of the title compound as a colorless oil. ES-MS m/e: 445.1 (M+H+).

reactant | PPh3 | 3 mmol, 216 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | 5-chloro-pyridin-2-ol | 0.45 mmol, 58 mg | ClC=1C=CC(=NC1)O | C5H4ClNO
reactant | DBAD | 0.48 mmol, 110 mg | C1=CC=C(C=C1)COC(=O)/N=N/C(=O)OCC2=CC=CC=C2 | C16H14N2O4
reactant | (R)-1-[(3R,4S)-1-benzyl-4-(4-chloro-3-fluoro-phenyl)-pyrrolidin-3-yl]-ethanol | 0.30 mmol, 100 mg | C(C1=CC=CC=C1)N1C[C@@H]([C@H](C1)C1=CC(=C(C=C1)Cl)F)[C@@H](C)O | C19H21ClFNO
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-{(S)-1-[(3R,4S)-1-Benzyl-4-(4-chloro-3-fluoro-phenyl)-pyrrolidin-3yl]-ethoxy}-5-chloro-pyridine | 100 mg, 75% | C(C1=CC=CC=C1)N1C[C@@H]([C@H](C1)C1=CC(=C(C=C1)Cl)F)[C@H](C)OC1=NC=C(C=C1)Cl | C24H23Cl2FN2O
